US07365211B2
DMSO (5 mL) under nitrogen was degassed by three freeze-pump-thaw sequences. To it was added 7-bromo-2-methyl-2H-indazole (0.100 g, 0.474 mmol), bis(pinacolato)diboron (0.132 g, 0.520 mmol), potassium acetate (0.138 g, 1.41 mmol), and [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.012 g, 0.015 mmol), and the mixture was subjected to one more freeze-pump-thaw sequence. The mixture was stirred for 19 h at 80° C., allowed to cool, and 20 mL of water were added. The mixture was extracted with three 5 mL portions of ethyl acetate. The combined organic layers were dried over Na2SO4, filtered, and concentrated to a brown solid. Column chromatography (0→90% EtOAc/hexanes) afforded slightly impure 2-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole that was used without further purification (10; 0.062 g, 51%).

reactant | 7-bromo-2-methyl-2H-indazole | 0.474 mmol, 0.100 g | BrC1=CC=CC2=CN(N=C12)C | C8H7BrN2
reactant | bis(pinacolato)diboron | 0.520 mmol, 0.132 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.41 mmol, 0.138 g | C(C)(=O)[O-].[K+]
catalyst | [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.015 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 20 mL | O | H2O
product | 2-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | CN1N=C2C(=CC=CC2=C1)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
